US06864287B1
Methyl 8-(2-benzyloxyphenyl)-6-(4-methoxycarbonylbenzyl)-7-octenoate
At 0° C. and under argon, 343.4 mg (0.64 mmol) of 2-(benzyloxy)benzyl-triphenylphosphonium bromide from Ex. III are suspended in 20 ml of THF, and 0.48 ml of butyllithium (0.76 mmol, 1.6 M solution in hexane) is added. The deep-orange solution is stirred at 0° C. for 30 min, and a solution of 195 mg (0.64 mmol) of methyl 6-formyl-7-(4-methoxycarbonylphenyl)heptanoate (prepared analogously to Example I from t-butyl 2-oxocyclohexanecarboxylate and methyl 4-chloromethylbenzoate, cf. EP-A-0 341 551) in 15 ml of THF is added dropwise at this temperature. The mixture is stirred at 0° C. for 30 min. At 0° C., water is added, and the mixture is then warmed to room temperature and extracted with ethyl acetate. The organic phase is washed with sodium chloride solution, dried with magnesium sulfate and concentrated using a rotary evaporator. For purification, the substance was chromatographed on 40 g of silica gel 60 (particle size 0.040-0.063 mm) using the mobile phase petroleum ether/ether 4:1 to 1:1.

reactant | 2-(benzyloxy)benzyl-triphenylphosphonium bromide | 0.64 mmol, 343.4 mg | [Br-].C(C1=CC=CC=C1)OC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | butyllithium | 0.76 mmol, 1.6 M, 0.48 ml | C(CCC)[Li]
reactant | methyl 6-formyl-7-(4-methoxycarbonylphenyl)heptanoate | 0.64 mmol, 195 mg | C(=O)C(CCCCC(=O)OC)CC1=CC=C(C=C1)C(=O)OC | C17H22O5
reactant | t-butyl 2-oxocyclohexanecarboxylate | O=C1C(CCCC1)C(=O)OC(C)(C)C | C11H18O3
reactant | methyl 4-chloromethylbenzoate | ClCC1=CC=C(C(=O)OC)C=C1 | C9H9ClO2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Methyl 8-(2-benzyloxyphenyl)-6-(4-methoxycarbonylbenzyl)-7-octenoate | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=CC(CCCCC(=O)OC)CC1=CC=C(C=C1)C(=O)OC | C31H34O5
